US07977351B2
3-(3-Ethyl-3H -furo[3,4-c]pyridin-1-ylidene )-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (936 mg, 6.20 mmol.) in THF (6 mL) is cooled to 0° C. under an argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (12.4 mL of a 1 M solution in THF, 12.4 mmol) dropwise. The resulting solution is stirred at room temperature for 10 min. A solution of 3-ethyl-3H-furo[3,4-c]pyridin-1-one (674 mg, 4.13 mmol) in THF (7 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (160 mL). The resulting mixture is heated to 90° C. for 2 h and stirred at room temperature for 36 h. The precipitate which formed is collected by filtration, washed with small volumes of ethyl acetate (10×3 mL) and dried under vacuum to give the title compound as a yellow solid (720 mg, 59%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 6.20 mmol, 936 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-ethyl-3H-furo[3,4-c]pyridin-1-one | 4.13 mmol, 674 mg | C(C)C1OC(C2=C1C=NC=C2)=O | C9H9NO2
reactant | HCl | 160 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 3-(3-Ethyl-3H -furo[3,4-c]pyridin-1-ylidene )-5-fluoro-1,3-dihydro-indol-2-one | 720 mg, 59% | C(C)C1OC(C2=C1C=NC=C2)=C2C(NC1=CC=C(C=C21)F)=O | C17H13FN2O2
